US09119868B2
To a solution of 5-cyclopropyl-2-(4-chlorophenyl)-6-(methylsulfonamido)benzofuran-3-carboxylic acid (5 g, 11.52 mmol) in dry DMF (30 mL) was added DIPEA (3.3 g, 25.34 mmol) and HATU (5.15 g, 13.5 mmol) at 20° C. After 15 minutes, 2M Methylamine in THF (23.04 mL, 46.08 mmol) was added dropwise and the mixture was stirred for another 2 hours before water (60 mL) was added. The mixture was extracted with EA (3×200 mL), washed with water (2×200 mL), dried and concentrated to afford 2-(4-Chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide as a brown solid (4.7 g, 97%). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.32 (br. s., 1H) 8.45 (q, 1H) 7.90 (d, 2H) 7.53-7.64 (m, 3H) 7.16 (s, 1H) 3.06 (s, 3H) 2.83 (d, 3H) 2.21-2.37 (m, 1H) 0.94-1.05 (m, 2H) 0.64-0.73 (m, 2H). LCMS (m/z, ES+)=419 (M+H+).

reactant | 5-cyclopropyl-2-(4-chlorophenyl)-6-(methylsulfonamido)benzofuran-3-carboxylic acid | 11.52 mmol, 5 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C1)NS(=O)(=O)C | C19H16ClNO5S
reactant | DIPEA | 25.34 mmol, 3.3 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 13.5 mmol, 5.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Methylamine | 2M | CN | CH5N
reactant | THF | 46.08 mmol, 23.04 mL | C1CCOC1 | C4H8O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 2-(4-Chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 4.7 g, 97% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2CC2 | C20H19ClN2O4S
